US08202873B2
3-{4-[3′-(4-Fluoro-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-ylmethyl]-pyrazol-1-yl}-propan-1-ol hydrochloride
Dissolve 3′-(4-fluoro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (0.150 g, 0.581 mmol) in DCE (5 mL). Add 1-(3-hydroxy-propyl)-1H-pyrazole-4-carbaldehyde (0.107 g, 0.697 mmol) followed by sodium triacetoxyborohydride (0.185 g, 0.872 mmol) and stir at room temperature for 18 hr. Purify via SCX chromatography, followed by silica gel chromatography (0:100 hexanes:ethyl acetate then 10:90 methanol:ethyl acetate), followed by reverse phase chromatography, SCX chromatography and silica gel chromatography (100:0 to 0:100 hexanes:ethyl acetate then 10:90 methanol:ethyl acetate to 20:80 methanol:ethyl acetate), to give the free base of the title compound (103 mg, 45%). Dissolve the free base (0.099 g, 0.251 mmol) in methanol and add a solution of ammonium chloride (0.013 g, 0.251 mmol) in a minimal volume of methanol. Shake for 18 hr. at ambient temperature and concentrate to give the title compound (105 mg, 97%). MS (ES): m/z=397 [M+H]+.

reactant | 3′-(4-fluoro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 0.581 mmol, 0.150 g | FC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCNCC1 | C14H15FN4
reactant | 1-(3-hydroxy-propyl)-1H-pyrazole-4-carbaldehyde | 0.697 mmol, 0.107 g | OCCCN1N=CC(=C1)C=O | C7H10N2O2
reactant | sodium triacetoxyborohydride | 0.872 mmol, 0.185 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | DCE | 5 mL | ClCCCl | C2H4Cl2
product | 3-{4-[3′-(4-Fluoro-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-ylmethyl]-pyrazol-1-yl}-propan-1-ol hydrochloride | 103 mg, 45% | Cl.FC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCN(CC1)CC=1C=NN(C1)CCCO | InChI=1S/C21H25FN6O.ClH/c22-19-4-2-18(3-5-19)20-21(24-7-6-23-20)27-11-9-26(10-12-27)15-17-14-25-28(16-17)8-1-13-29;/h2-7,14,16,29H,1,8-13,15H2;1H
